US08314098B2
(Step 2): 5-Chloro-7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidine
There was dissolved, in 1,4-dioxane (4 mL), 5,7-dichloro-2-phenyl-pyrazolo-[1,5-a]pyrimidine (168 mg, 0.637 mM), morpholine (111 μL, 1.27 mM) was added to the resulting solution and the mixture was stirred at room temperature for 15 minutes. The solvent was distilled off from the reaction mixture, the resulting residue was diluted with water and then extracted with methylene chloride. The extracts thus obtained were combined, dried over anhydrous sodium sulfate, the solvent was distilled off, and the resulting solid was washed with methanol to thus obtain the title compound (200 mg, yield: 100%).

reactant | 5,7-dichloro-2-phenyl-pyrazolo-[1,5-a]pyrimidine | 0.637 mM, 168 mg | ClC1=NC=2N(C(=C1)Cl)N=C(C2)C2=CC=CC=C2 | C12H7Cl2N3
reactant | morpholine | 1.27 mM, 111 μL | N1CCOCC1 | C4H9NO
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 5-Chloro-7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidine | 200 mg, yield: 100% | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=CC=CC=C2 | C16H15ClN4O
